US07053089B2
A mixture of 3-aminomethyl-pyrrolidine-1-carboxylic acid benzyl ester (0.15 g), 2-bromopyrimidine (0.25 g), 2-propanol (10 mL), and of N,N-diisopropylethylamine (0.1 mL) was heated to reflux overnight. Purification of the residue obtained after concentration under reduced pressure by preparative chromatography, and eluting with ethyl acetate, gave 3-(pyrimidin-2-ylaminomethyl)-pyrrolidine-1-carboxylic acid benzyl ester as a solid:

reactant | 3-aminomethyl-pyrrolidine-1-carboxylic acid benzyl ester | 0.15 g | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)CN | C13H18N2O2
reactant | 2-bromopyrimidine | 0.25 g | BrC1=NC=CC=N1 | C4H3BrN2
reactant | N,N-diisopropylethylamine | 0.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 2-propanol | 10 mL | CC(C)O | C3H8O
product | 3-(pyrimidin-2-ylaminomethyl)-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)CNC1=NC=CC=N1 | C17H20N4O2
